US08030497B2
a) 5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
A solution of 150 mg (0.317 mmol) acetic acid[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methyl ester in 8 ml THF:MeOH=1:2 is hydrogenated in the presence of 50 mg Pd/C (Engelhard 4505). Then the catalyst is filtered off and the filtrate is concentrated in vacuo to afford 120 mg of the title compound as a colorless oil.

reactant | acetic acid[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-phenyl-methyl ester | 0.317 mmol, 150 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(C2=CC=CC=C2)OC(C)=O)OC | C29H32N2O4
reactant | MeOH | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 120 mg | C(C1=CC=CC=C1)C1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C27H30N2O2
